US07816542B2
Steps 2 and 3: To a mixture of 4-(6-chloro-7-fluoro-1H-indol-2-yl)-benzoic acid methyl ester (37 mg, 0.122 mmol) from the previous step, 4-n-butylphenyl-boronic acid (43 mg, 0.244 mmol), and cesium carbonate (159 mg, 0.487 mmol) in dioxane (4 mL), is added CombiPhos-Pd6 palladium catalyst (Combiphos Catalysts Inc., 3 mg). The mixture is purged with N2 for 5 minutes and heated at 120° C. for 7 hours in a sealed tube. After cooling to room temperature, the reaction is diluted with ethyl acetate and sequentially washed with 1 N HCl, H2O, and saturated aqueous NaCl. The organics are then dried over Na2SO4, filtered, and concentrated. The resulting residue is treated with ethanol/H2O (2 mL/1 mL) followed by LiOH (26 mg, 0.609 mmol). This mixture is heated at 50° C. for 1 hour. After cooling to room temperature, the reaction is diluted with ethyl acetate and washed with 1 N aqueous HCl. The organic layer is dried over Na2SO4 and filtered. After concentration, the crude product is purified by preparative RP LC-MS to give 4-[6-(4-Butyl-phenyl)-7-fluoro-1H-indol-2-yl]-benzoic acid as a white solid: 1H NMR (400 MHz, Acetone-d6) δ 11.13 (bs, 1H), 8.10-8.05 (m, 4H), 7.59 (d, 2H), 7.52 (d, 1H), 7.32 (d, 2H), 7.18-7.12 (m, 2H), 2.71 (t, 2H), 1.70-1.63 (m, 2H), 1.49-1.40 (m, 2H), 0.98 (t, 3H); ESMS m/z 388.2 (M+H+).

reactant | 4-(6-chloro-7-fluoro-1H-indol-2-yl)-benzoic acid methyl ester | 0.122 mmol, 37 mg | COC(C1=CC=C(C=C1)C=1NC2=C(C(=CC=C2C1)Cl)F)=O | C16H11ClFNO2
reactant | 4-n-butylphenyl-boronic acid | 0.244 mmol, 43 mg | C(CCC)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | cesium carbonate | 0.487 mmol, 159 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | LiOH | 0.609 mmol, 26 mg | [Li+].[OH-]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | 3 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[6-(4-Butyl-phenyl)-7-fluoro-1H-indol-2-yl]-benzoic acid | C(CCC)C1=CC=C(C=C1)C1=CC=C2C=C(NC2=C1F)C1=CC=C(C(=O)O)C=C1 | C25H22FNO2
